US06544985B2
7-Dimethylamino-4-[3-(5-hydroxymethyl-[1,2,3]triazol-1-yl)-phenyl]-8-methyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (RS)-[5-dimethylamino-4-methyl-2-(3oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionyl-amino)-phenyl]-carbamic acid tert-butyl ester (Example M77) (0.42 g, 0.71 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a pale yellow solid (200 mg, 72%).

reactant | (RS)-[5-dimethylamino-4-methyl-2-(3oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionyl-amino)-phenyl]-carbamic acid tert-butyl ester | 0.71 mmol, 0.42 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C)NC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O)=O | C31H40N6O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Dimethylamino-4-[3-(5-hydroxymethyl-[1,2,3]triazol-1-yl)-phenyl]-8-methyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CN(C1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2N=NC=C2CO)=O)C=C1C)C | C21H22N6O2
